US08377957B2
The method described in Part A of Example 1 was used to treat 2,4-dichloro-3-nitroquinoline (10.0 g, 40.8 mmol) in DMF (100 mL) with triethylamine (8.53 mL, 61.2 mmol) and 4-methoxybenzylamine (4.85 mL, 40.8 mmol). After the precipitate was isolated by filtration, it was dried for three hours in a vacuum oven at 60° C. to provide 13.1 g of 2-chloro-N-(4-methoxybenzyl)-3-nitroquinolin-4-amine as a brown solid.

reactant | 2,4-dichloro-3-nitroquinoline | 40.8 mmol, 10.0 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 61.2 mmol, 8.53 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzylamine | 40.8 mmol, 4.85 mL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-chloro-N-(4-methoxybenzyl)-3-nitroquinolin-4-amine | 13.1 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC1=CC=C(C=C1)OC | C17H14ClN3O3
